US04562187
[3-(4-Methoxybenzoyl)isoxazol-5-yl]acetic acid
To a mixture of 24.7 g of 2-[3-(4-methoxybenzoyl)-isoxazol-5-yl]ethanol and a few crystals of tetrabutylammonium hydrogen sulfate in 2 liter of CH2Cl2 was added 300 ml of 9M H2SO4. To this was added 29.4 g of pulverized K2Cr2O7 and the mixture was stirred at room temperature for 15 minutes. The organic phase was separated from the aqueous phase and washed with water. The acid product was extracted from the organic phase using 300 ml of 3% NaHCO3. The alkaline solution was washed with CH2Cl2 several times, and the solution was then acidified slowly with 5% HCl until all the acid precipitated. The solid was filtered, washed with water, and dried to give 2.6 g of a powder. Recrystallization from 50 ml of toluene yielded 2.3 g (9%) of needles, m.p. 119°-121°.

reactant | 2-[3-(4-methoxybenzoyl)-isoxazol-5-yl]ethanol | 24.7 g | COC1=CC=C(C(=O)C2=NOC(=C2)CCO)C=C1 | C13H13NO4
reactant | H2SO4 | 9M, 300 ml | OS(=O)(=O)O | H2O4S
catalyst | tetrabutylammonium hydrogen sulfate | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 2 liter | C(Cl)Cl | CH2Cl2
product | [3-(4-Methoxybenzoyl)isoxazol-5-yl]acetic acid | 2.6 g | COC1=CC=C(C(=O)C2=NOC(=C2)CC(=O)O)C=C1 | C13H11NO5
